US04347372
Preparation of α-[Benzoxazol-2-yl]-α-[O-ethoxycarbonyl-oximino]-acetonitrile
12 g (0.11 mol) of ethyl chloroformate are added dropwise to a solution of 18.7 g (0.1 mol) of α-[benzoxazol-2-yl]-α-oximino-acetonitrile in 120 ml of pyridine, with ice-cooling. After stirring for 3 hours, the mixture is poured into 1 liter of ice-water and the residue is filtered off and washed with water: 23 g (89% of theory) of end product, which is recrystallised from acetonitrile; melting point 187° C.

reactant | ethyl chloroformate | 0.11 mol, 12 g | ClC(=O)OCC | C3H5ClO2
reactant | α-[benzoxazol-2-yl]-α-oximino-acetonitrile | 0.1 mol, 18.7 g | O1C(=NC2=C1C=CC=C2)C(C#N)=NO | C9H5N3O2
solvent | pyridine | 120 ml | N1=CC=CC=C1 | C5H5N
product | α-[Benzoxazol-2-yl]-α-[O-ethoxycarbonyl-oximino]-acetonitrile | O1C(=NC2=C1C=CC=C2)C(C#N)=NOC(=O)OCC | C12H9N3O4
